US07319104B2
4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)-2,5-dimethylphenol
Similarly prepared from 5-ethyl-N-[2-(4-methoxy-2,5-dimethylphenyl)ethyl]pyrimidin-2-amine and 4-trifluoromethoxy benzyl bromide.

reactant | 5-ethyl-N-[2-(4-methoxy-2,5-dimethylphenyl)ethyl]pyrimidin-2-amine | C(C)C=1C=NC(=NC1)NCCC1=C(C=C(C(=C1)C)OC)C | C17H23N3O
reactant | 4-trifluoromethoxy benzyl bromide | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
product | 4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)-2,5-dimethylphenol | C(C)C=1C=NC(=NC1)N(CCC1=CC(=C(C=C1C)O)C)CC1=CC=C(C=C1)OC(F)(F)F | C24H26F3N3O2
